US05061706
0.21 g (0.8 mmol) N-ethoxalyl-5-methoxy-2-nitroaniline in 10 ml dimethylformamide was hydrogenated at atm. pressure by using 10 mg 5% Pt-C as a catalyst. The reaction mixture was filtered and 5 drops of 25% aqueous ammonia was added to the filtrate. The precipitate was filtered off, and the filter cake was washed several times with 1N aqueous potassium hydroxide. The filtrate was acidified with concentrated hydrochloric acid, and the precipitate was filtered off, washed with water, ethanol and ether to give 0.07 g (44%) of 1-hydroxy-6-methoxyquinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d ) 12.1 (1H, broad s), 7.6-6.6 (3H, m), 3.8 (3H, s). MS (m/e): 208 (M+, 50%), 163 (100%).

reactant | N-ethoxalyl-5-methoxy-2-nitroaniline | 0.8 mmol, 0.21 g | C(=O)(C(=O)OCC)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C11H12N2O6
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | Pt-C | 10 mg | [Pt] | Pt
product | 1-hydroxy-6-methoxyquinoxaline-2,3(1H,4H)-dione | 0.07 g, 44% | ON1C(C(NC2=CC(=CC=C12)OC)=O)=O | C9H8N2O4
